US06951879B2
To 208 mg (0.51 mmol) 2-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-N-methoxy-N-methyl-acetamide in 8 ml THF were added 0.51 ml 3M (1.53 mmol, 3 eq) methylmagnesiumbromide in THF at −75° C. The solution was slowly warmed to RT over night, a saturated aqueous solution of NH4Cl was added and the mixture stirred for 30 min. The phases were separated and the inorganic phase was extracted with EtOAc. The combined organic phases were dried over Na2SO4 and evaporated. Column chromatography on silica gel with EtOAc:hexane 1:4 yielded 109 mg (53%) 1-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propan-2-one as white solid, MS: 361 (M, 1Br).

reactant | 2-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-N-methoxy-N-methyl-acetamide | 0.51 mmol, 208 mg | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCC(=O)N(C)OC | C17H15BrN2O3S
reactant | methylmagnesiumbromide | 1.53 mmol, 3M, 0.51 ml, 3 eq | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propan-2-one | 109 mg, 53% | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCC(C)=O | C16H12BrNO2S
